US06277861B1
(±) N-(1,2-Dimethyl-4H-isoquinolin-7-yl)-3-bromo-4-ethylbenzamide
(±) 7-Amino-1,2-dimethyl-tetrahydroisoquinoline mono hydrochloride (0.106 g, 0.50 mmol) in dichloromethane (10 ml) was sequentially treated with 3-bromo-4-ethylbenzoyl chloride (0.124 g, 0.50 mmol) and triethylamine (0.3 ml, 2.2 mmol). The mixture was stirred at ambient temperature for 18 h. Evaporation in vacuo gave an oily residue which was purified by chromatography through silica gel eluting with (0.5% conc. ammonia: 4.5% methanol: 95% dichloromethane). The title compound was obtained as an off-white foam (0.149 g, 77%).

reactant | (±) 7-Amino-1,2-dimethyl-tetrahydroisoquinoline mono hydrochloride | 0.50 mmol, 0.106 g | Cl.NC1=CCC2CCN(C(C2=C1)C)C
reactant | 3-bromo-4-ethylbenzoyl chloride | 0.50 mmol, 0.124 g | BrC=1C=C(C(=O)Cl)C=CC1CC | C9H8BrClO
reactant | triethylamine | 2.2 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (±) N-(1,2-Dimethyl-4H-isoquinolin-7-yl)-3-bromo-4-ethylbenzamide | CC1N(CCC2=CC=C(C=C12)NC(C1=CC(=C(C=C1)CC)Br)=O)C | C20H23BrN2O
